US03952026
f. Dithenyl sulfide was prepared by the same method as used for compound (1) b. (dithenyl ether) of Group X above, except that thenylmercaptan was used instead of thenyl alcohol. The product has a b.p. of 118° C./0.04 mm. Hg.

reactant | dithenyl ether | C1(=CC=CS1)COCC1=CC=CS1 | C10H10OS2
reactant | thenylmercaptan | C1(=CC=CS1)CS | C5H6S2
product | Dithenyl sulfide | C1(=CC=CS1)CSCC1=CC=CS1 | C10H10S3
